US04097504
Step C: Preparation of 8-Glycoloyl-12-hydroxyheptadecanoic Acid
A clear, yellow solution of ethyl 8-glycoloyl-12 -hydroxyheptadecanoate (7.9 g., 0.02 mole) and potassium hydroxide (2.24 g., 0.04 mole) in 90% aqueous methanol (50 ml.) is stirred at 25° under nitrogen for 20 hours. The reaction solution is evaporated in vacuo at 40° leaving a residual red oil which is dissolved in water (200 ml.). The resulting solution is acidified with concentrated hydrochloric acid (10 ml.) and extracted with ether (2 × 200 ml.). The organic extract is washed with saturated brine (2 × 200 ml.), dried over sodium sulfate, filtered and evapoated in vacuo at 40°-50° providing the title compound as a slightly impure, deep yellow oil (6.3 g., 92%).

reactant | ethyl 8-glycoloyl-12 -hydroxyheptadecanoate | 0.02 mole, 7.9 g | C(CO)(=O)C(CCCCCCC(=O)OCC)CCCC(CCCCC)O | C21H40O5
reactant | potassium hydroxide | 0.04 mole, 2.24 g | [OH-].[K+]
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 200 ml | O | H2O
product | 8-Glycoloyl-12-hydroxyheptadecanoic Acid | C(CO)(=O)C(CCCCCCC(=O)O)CCCC(CCCCC)O | C19H36O5
